US04232016
3.7 g. of 3-fluoro-5-o-chlorophenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one-3-carboxylic acid, obtainable from 5-o-chlorophenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one-3-carboxylic acid and CF3OF, in 50 ml. of pyridine are boiled for 1 hour with 0.5 g. of CuO. The mixture is cooled, poured onto ice and filtered to give 3-fluoro-5-o-chlorophenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one, m.p. 211° (decomposition).

reactant | 3-fluoro-5-o-chlorophenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one-3-carboxylic acid | FC1(C(NC2=C(C(=N1)C1=C(C=CC=C1)Cl)C=C(C=C2)Cl)=O)C(=O)O | C16H9Cl2FN2O3
reactant | 5-o-chlorophenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one-3-carboxylic acid | ClC1=C(C=CC=C1)C1=NC(C(NC2=C1C=C(C=C2)Cl)=O)C(=O)O | C16H10Cl2N2O3
reactant | CF3OF | C(F)(F)(F)OF | CF4O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-fluoro-5-o-chlorophenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one | FC1C(NC2=C(C(=N1)C1=C(C=CC=C1)Cl)C=C(C=C2)Cl)=O | C15H9Cl2FN2O
